US04772600
2-(4-Bromophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
Under a nitrogen atmosphere, oxalyl chloride (2.6 g, 0.020 mole) was added dropwise (slowly) to a stirred and chilled (5°-10° C.) suspension of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.4 g, 0.019 mole) in anhydrous dimethylformamide (50 ml). The reaction mixture was heated at 55°-60° C. for 5 hours, cooled to room temperature, and added dropwise to a stirred and chilled (10°-15° C.) suspension of N,N-dimethyl-p-phenylenediamine dihydrochloride (4.04 g, 0.0193 mole), triethylamine (8.2 g, 0.081 mole), and anhydrous dimethylformamide (100 ml). The reaction mixture was stirred overnight at room temperature, filtered, and poured into ice water (500 ml). The mixture was allowed to precipitate, and filtered. The filter cake was triturated in potassium bicarbonate solution (100 ml), filtered, and rinsed with water (100 ml). The cake was twice recrystallized from tetrahydrofuran/ethyl alcohol, giving 2.8 g (31%) of a white solid, mp 248°- 250° C.

reactant | oxalyl chloride | 0.020 mole, 2.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.019 mole, 6.4 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | N,N-dimethyl-p-phenylenediamine dihydrochloride | 0.0193 mole, 4.04 g | Cl.Cl.CN(C1=CC=C(C=C1)N)C
reactant | triethylamine | 0.081 mole, 8.2 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.8 g, 31% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC=C(C=C1)N(C)C | C22H20BrN5O
